US05446164
1-1)3,4-Dihydro-6,7-dimethoxy-1-(4-methoxybenzyl) isoquinolin-8-ol hydrochloride
Phosphoryl chloride (5.42 ml, 58.1 mmol) was added to a chloroform (100 ml)solution of N-(4,5-dimethoxy-3-hydroxyphenethyl)-4-methoxyphenylacetamide (6.71 g, 19.4mmol) at room temperature, and the mixture was stirred under a nitrogen atmosphere at 55° C. for 16 hours. The solvent and excess phosphoryl chloride were removed under reduced pressure, and the resultant residue was recrystallized from methanol-ether to give 6.05 g (yield: 86 %) of the captioned compound as colorless needles. Melting point: 214°-216° C. (dec) High resolution FAB-MS (m/z, (C19H21NO4 +H)+): Calc. 328.1549 Found 328.1526 1H-NMR (300 MHz, CDCl3, δ ppm): 2.85 (2H, t, J=7.4Hz), 3.73 (3H, s), 3.82 (2H, t, J=7.4Hz), 3.91 (3H, s), 3.94 (3H, s), 4.78 (2H,s), 6.38 (1H, s), 6.76 (2H, d, J=8.8Hz), 7.40 (2H, d, J=8.8Hz)

reactant | Phosphoryl chloride | 58.1 mmol, 5.42 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-(4,5-dimethoxy-3-hydroxyphenethyl)-4-methoxyphenylacetamide | 19.4mmol, 6.71 g | COC1=C(C=C(CCNC(CC2=CC=C(C=C2)OC)=O)C=C1OC)O | C19H23NO5
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4-Dihydro-6,7-dimethoxy-1-(4-methoxybenzyl) isoquinolin-8-ol hydrochloride | 6.05 g, yield: 86 % | Cl.COC=1C=C2CCN=C(C2=C(C1OC)O)CC1=CC=C(C=C1)OC | InChI=1S/C19H21NO4.ClH/c1-22-14-6-4-12(5-7-14)10-15-17-13(8-9-20-15)11-16(23-2)19(24-3)18(17)21;/h4-7,11,21H,8-10H2,1-3H3;1H
